US08633315B2
Trimethyl(prop-1-ynyl)silane (4 mL, 28 mmol) and N,N,N′,N′-tetramethylethanediamine (5 mL, 36 mmol) were dissolved in dry diethyl ether (50 mL) and cooled to −78° C. Tert-butyllithium, 1.7 M solution in pentane (17 mL, 28 mmol) was added dropwise and the heterogenous solution was allowed to warm to 0° C. for 15 min to give a clear yellow solution, which was recooled to −78 C. Azeotropically (S,E)-N—((S)-2,3-bis(tert-butyldimethylsilyloxy)propylidene)-2-methylpropane-2-sulfinamide (3.0 g, 7 mmol) in dry THF (20 mL) was added dropwise and the solution was stirred for 1 h until the starting material was consumed. The reaction mixture as quenched with NH4Cl and extracted with EtOAc. The combined organics were washed with water, brine, dried over Na2SO4, filtered, and concentrated to afford a yellow oil as (S)—N-((2S,3S)-1,2-bis(tert-butyldimethylsilyloxy)-6-(trimethylsilyl)hex-5-yn-3-yl)-2-methylpropane-2-sulfinamide.

reactant | Trimethyl(prop-1-ynyl)silane | 28 mmol, 4 mL | C[Si](C#CC)(C)C | C6H12Si
reactant | N,N,N′,N′-tetramethylethanediamine | 36 mmol, 5 mL | CN(C(C)N(C)C)C | C6H16N2
reactant | Tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 28 mmol, 17 mL | CCCCC | C5H12
reactant | (S,E)-N—((S)-2,3-bis(tert-butyldimethylsilyloxy)propylidene)-2-methylpropane-2-sulfinamide | 7 mmol, 3.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H](\C=N\[S@@](=O)C(C)(C)C)CO[Si](C)(C)C(C)(C)C | C19H43NO3SSi2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)—N-((2S,3S)-1,2-bis(tert-butyldimethylsilyloxy)-6-(trimethylsilyl)hex-5-yn-3-yl)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@H](CC#C[Si](C)(C)C)N[S@@](=O)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C25H55NO3SSi3
